US07714168B2
To 50 ml of acetonitrile were added 12 g of propargyl alcohol, 16 g of 3,4,5-trifluorobenzaldehyde and 15 g of potassium carbonate, and the mixture obtained was stirred at room temperature for 1 day. Then, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with dilute hydrochloric acid and brine. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 20 g of 3,5-difluoro-4-(2-propynyloxy)benzaldehyde represented by the formula:

reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | propargyl alcohol | 12 g | C(C#C)O | C3H4O
reactant | 3,4,5-trifluorobenzaldehyde | 16 g | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3,5-difluoro-4-(2-propynyloxy)benzaldehyde | 20 g | FC=1C=C(C=O)C=C(C1OCC#C)F | C10H6F2O2
